US08198453B2
A suspension of (R)-tert-butyl 3-((R)-(2-azidoethoxy)(3-fluorophenyl)methyl)piperidine-1-carboxylate (12 g, 31.75 mmol) and Pd(OH)2/C (1.2 g) in MeOH (240 ml) was stirred under H2 for 1 hr. The mixture was filtered and evaporated under reduced pressure to give desired (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-fluorophenyl)methyl)piperidine-1-carboxylate (10 g).

reactant | (R)-tert-butyl 3-((R)-(2-azidoethoxy)(3-fluorophenyl)methyl)piperidine-1-carboxylate | 31.75 mmol, 12 g | N(=[N+]=[N-])CCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H27FN4O3
solvent | MeOH | 240 ml | CO | CH4O
catalyst | Pd(OH)2/C | 1.2 g | [OH-].[OH-].[Pd+2]
product | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-fluorophenyl)methyl)piperidine-1-carboxylate | 10 g | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H29FN2O3
